US08003649B2
A mixture of 1-(2,6-dimethylphenyl)piperazine and 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 339 to give 3-[chloro(difluoro)methyl]-6-[4-(2,6-dimethylphenyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 64% yield.

reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
reactant | 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl | C6H2Cl2F2N4
product | 3-[chloro(difluoro)methyl]-6-[4-(2,6-dimethylphenyl)piperazin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 64% yield | ClC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=C(C=CC=C2C)C)(F)F | C18H19ClF2N6
